US08632992B2
To a stirred solution of Boc-Lys-(Ac)—OH (20.5 g, 71 mmol) in dry THF (410 mL), N-methylmorpholine (7.8 mL, 71 mmol) was added under an atmosphere of N2. The reaction vessel was cooled to 4° C. for 20 minutes, at which time isobutylchloroformate (9.3 mL, 71 mmol) was added drop-wise. The reaction was allowed to stir in an ice bath for approximately 60 minutes, at which time 6-amino-2-cyanobenzothiazole (10 g, 57 mM) was added. The reaction was allowed to stir for approximately 30 minutes in the ice bath, removed, and the reaction mixture allowed to reach room temperature overnight. The reaction was then filtered through a Buchner funnel, and the filtrate concentrated to a solid foam. This solid foam was dissolved in dichloromethane (1 L) and washed 2× with NaHCO3 (sat. aq., 300 mL). The organic phase was dried over Na2SO4, filtered, and concentrated to provide a solid foam. This solid foam was then purified by silica gel chromatography with a gradient of heptanes/ethyl acetate (Teac) (40% Teac to 100% Teac step gradient over 80 minutes) to provide 24.7 g of Boc-Lys(Ac)-aminocyanobenzothiazole as a foamy solid.

reactant | Boc-Lys-(Ac)—OH | 71 mmol, 20.5 g | CC(=O)NCCCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C13H24N2O5
reactant | N-methylmorpholine | 71 mmol, 7.8 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 71 mmol, 9.3 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 6-amino-2-cyanobenzothiazole | 57 mM, 10 g | NC1=CC2=C(N=C(S2)C#N)C=C1 | C8H5N3S
solvent | THF | 410 mL | C1CCOC1 | C4H8O
product | Boc-Lys(Ac) aminocyanobenzothiazole | 24.7 g | N([C@@H](CCCCNC(=O)C)C(=O)O)C(=O)OC(C)(C)C.NC1=CC=CC2=C1N=C(S2)C#N | InChI=1S/C13H24N2O5.C8H5N3S/c1-9(16)14-8-6-5-7-10(11(17)18)15-12(19)20-13(2,3)4;9-4-7-11-8-5(10)2-1-3-6(8)12-7/h10H,5-8H2,1-4H3,(H,14,16)(H,15,19)(H,17,18);1-3H,10H2/t10-;/m0./s1
